US08937184B2
To a magnetically stirred solution of 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid (0.66 gram, 0.00306 mol) in dichloromethane (35 ml) was successively added diisopropylethylamine (DIPEA) (3.1 ml), CIP (2-chloro-1,3-dimethylimidazolinium hexafluorophosphate). (2.55 gram) and 3-hydroxyadamantane amine (0.612 gram, 0.00366 mol). The resulting mixture was reacted at 20° C. for 16 hours and subsequently concentrated in vacuo. The resulting residue was taken up in dichloromethane and washed with 5% aqueous NaHCO3 solution. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (dichoromethane/methanol=98/2 (v/v)) to give N-(3 hydroxyadamant-1-yl)-2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxamide (0.75 gram, 67% yield). Rf (silica gel/dichoromethane/methanol=98/2 (v/v))˜0.6. Melting point: 215-220° C.

reactant | 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid | 0.00306 mol, 0.66 gram | CC=1N(C(=C(N1)C(=O)O)C)C1=CC=CC=C1 | C12H12N2O2
reactant | diisopropylethylamine | 3.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | CIP | F[P-](F)(F)(F)(F)F.ClC1[NH+](CCN1C)C
reactant | 3-hydroxyadamantane amine | 0.00366 mol, 0.612 gram | OC12CC3(CC(CC(C1)C3)C2)N | C10H17NO
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | N-(3 hydroxyadamant-1-yl)-2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxamide | 0.75 gram, 67% yield | OC12CC3(CC(CC(C1)C3)C2)NC(=O)C=2N=C(N(C2C)C2=CC=CC=C2)C | C22H27N3O2
